US09399647B2
The ethyl 2-(4-hydroxy-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-2-yl)acetate (9 g, 0.03078 mol) and phosphorous oxy-chloride (45 ml) was refluxed for 4 h. After completion of the reaction, it was concentrated under reduced pressure. The resulting residue was cooled to 0° C. To this, ice water (200 ml) was added and stirred for 30 min. Then it was basified with 25% aq. NH4OH solution slowly to pH=8. It was extracted with DCM (250 ml×3). Organic extracts were washed with water followed by brine. The separated organic layer was dried over anhydrous Na2SO4 and concentrated to get crude product. It was purified by column chromatography by using 100-200 mesh silica gel and DCM as eluent to give ethyl 2-(4-chloro-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-2-yl)acetate as yellow liquid. Yield—(7 g, 73.16%); 1H-NMR: (400 MHz, CDCl3); δ=4.22-4.16 (q, 2H), 4.02 (s, 2H), 3.06 (m, 2H), 2.85-2.84 (m, 2H), 1.93-1.83 (m, 4H), 1.26-1.23 (t, 3H); LC-MS [M+H]=310.9.

reactant | ethyl 2-(4-hydroxy-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-2-yl)acetate | 0.03078 mol, 9 g | OC=1C2=C(N=C(N1)CC(=O)OCC)SC1=C2CCCC1 | C14H16N2O3S
reactant | phosphorous oxy-chloride | 45 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
product | ethyl 2-(4-chloro-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-2-yl)acetate | ClC=1C2=C(N=C(N1)CC(=O)OCC)SC1=C2CCCC1 | C14H15ClN2O2S
